US04251546
2-(5-chloro-2-methoxyphenyl)propan-2-ol (m.p. 56° C.) was prepared from 5-chloro-2-methoxyacetophenone following the method described in Example 3 for the preparation of 2-(5-fluoro-2-methoxyphenyl)propan-2-ol.

reactant | 5-chloro-2-methoxyacetophenone | CC(=O)C1=C(C=CC(=C1)Cl)OC | C9H9ClO2
reactant | 2-(5-fluoro-2-methoxyphenyl)propan-2-ol | FC=1C=CC(=C(C1)C(C)(C)O)OC | C10H13FO2
product | 2-(5-chloro-2-methoxyphenyl)propan-2-ol | ClC=1C=CC(=C(C1)C(C)(C)O)OC | C10H13ClO2
